### PR TITLE
WIP: progress towards Lemma 8.0.1

### PR DESCRIPTION
**Pull request by grunweg**
This PR is like an incubator/a sand box to work on things as they get ready enough for a PR.

### CODE REVIEW

File: Carleson/HolderVanDerCorput.lean [hunk 1]
```diff
@@ -15,6 +15,219 @@ open scoped NNReal ENNReal ComplexConjugate
...
+  exact (div_lt_one (by positivity)).mp (by linarith)
+
+lemma aux_8_0_5 (hR : 0 < R) (ht : 0 < t) (h : y ∈ ball x (2 ^ (-1: ℝ) * t * R)) :
+    2 ^ (-1 : ℝ) ≤ cutoff R t x y := by
+  rw [mem_ball', mul_assoc] at h
+  have : dist x y / (t * R) < 2 ^ (-1 : ℝ) := (div_lt_iff₀ (by positivity)).mpr h
+  calc 2 ^ (-1 : ℝ)
+    _ ≤ 1 - dist x y / (t * R) := by
+      norm_num at *; linarith only [h, this]
+      -- bug: putting the cursor on the previous line shows 'no goals', but also
```
Comment (fpvandoorn) [inline Carleson/HolderVanDerCorput.lean:82]: I cannot reproduce this
image
